US06743776B2
To a suspension of 1-(4-cyclohexylphenyl)piperazine dihydrobromide (2.5 g) and potassium bicarbonate (2.125 g) in N,N-dimethylformamide (6 ml) was added methyl 4-(2-chloroethylphenyl) benzoate (1.22 g) and stirred for 24 hours at 120° C. The reaction mixture was added to a mixture of water and ethyl acetate. The organic layer was taken and dried over magnesium sulfate. The magnesium sulfate was filtered off, and the filtrate was evaporated under reduced pressure to give methyl 4-[2-[4-(4-cyclohexylphenyl)-piperazin-1-yl]ethyl]benzoate (1.247 g).

reactant | 1-(4-cyclohexylphenyl)piperazine dihydrobromide | 2.5 g | Br.Br.C1(CCCCC1)C1=CC=C(C=C1)N1CCNCC1
reactant | potassium bicarbonate | 2.125 g | C([O-])(O)=O.[K+]
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | methyl 4-[2-[4-(4-cyclohexylphenyl)-piperazin-1-yl]ethyl]benzoate | 1.247 g | C1(CCCCC1)C1=CC=C(C=C1)N1CCN(CC1)CCC1=CC=C(C(=O)OC)C=C1 | C26H34N2O2
